US09402838B2
Synthesis of (2,2-dimethoxyethoxy)cyclohexane
Dissolve cyclohexanol (2.00 mL, 19.1 mmol) in DMF (9.6 mL), then add NaHMDS (1 M solution in THF, 21.0 mL, 21.0 mmol), and stir the solution at room temperature for 5 min. Add 2-bromo-1,1-dimethoxyethane (2.26 mL, 19.1 mmol), then stir the mixture at room temperature under a nitrogen atmosphere for three days. Dilute the mixture with EtOAc (250 mL) and wash with saturated aqueous NaCl (2×250 mL). Dry the organic phase over MgSO4, filter, and concentrate the filtrate under reduced pressure. Subject the resulting crude material to silica gel chromatography eluting with a gradient of 0% to 10% EtOAc/hexanes. Concentrate the fractions containing the desired product under reduced pressure to furnish the title compound as a pale yellow oil (1.10 g, 31% yield). 1H NMR (400 MHz, CDCl3): δ 4.47 (t, J=5.3 Hz, 1H), 3.49 (d, J=5.3 Hz, 2H), 3.39 (s, 6H), 3.25 (tt, J=9.2, 3.7 Hz, 1H), 1.94-1.87 (m, 2H), 1.76-1.69 (m, 2H), 1.55-1.49 (m, 1H), 1.34-1.17 (m, 5H).

reactant | cyclohexanol | 19.1 mmol, 2.00 mL | C1(CCCCC1)O | C6H12O
reactant | NaHMDS | 21.0 mmol, 1 M, 21.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-bromo-1,1-dimethoxyethane | 19.1 mmol, 2.26 mL | BrCC(OC)OC | C4H9BrO2
solvent | DMF | 9.6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | (2,2-dimethoxyethoxy)cyclohexane | 1.10 g, 31% yield | COC(COC1CCCCC1)OC | C10H20O3
